Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
oral contraceptives
 
Attending: ___.
 
Chief Complaint:
"I was severely depressed and I have MS."

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with history of
depression, anxiety and primary progressive multiple sclerosis
who self-presented per her neurologist's recommendation for
evaluation of worsening depression and SI.  Ms. ___ reported
that she had SI in the past and was told by her neurologist to
come to the ED if she ever had SI again. She stated that 4 days
ago, she started having thoughts of not wanting to live any
longer. She felt "bummed out" and "doomed" the past couple of
days. Triggers include family and holidays specifically her
brother telling the family that he and his girlfriend are
expecting a baby. She stated that her brother is very successful
and that reminded her of how she was previously successful
(making $200k/year) and now she can barely hold a part time job
(making $10k/year) due to her MS. ___ also noted how she cannot
have a child because she is afraid she cannot physically
care for a child. 

She first had SI ___ months ago when she had thoughts of wanting
to join her deceased father. She was started on paroxetine and
her depression improved over the past ___ months. She recalled
during her depression that she became impulsive and wanted to
gamble. She went to a casino by herself and learned how to play
___ Hold'em. This is very unusual for her and she described
herself as "a vanilla person". She started having thoughts of
being impulsive and gambling recently but did not act on the
thoughts.

She reported poor sleep with no sleep at night and ___ hours
during the day time. She endorsed anhedonia, fatigue, poor
appetite with 40lb weight loss "effortlessly" over the past 6
months, poor concentration and memory. She endorsed SI with plan
to "attach a hose from my car exhaust, sit in a car, listen to
music and fall asleep." She denied any intention or acting out 
of
the plan. She denied any symptoms of mania or psychosis. She
reported anxiety with ruminating thoughts and history of panic
attacks with symptoms of SOB, palpitation, and nausea. She
described difficulty focusing and being drawn into other 
people's
conversations at restaurants to the point where she has to wear
ear plugs when going out so that she doesn't get distracted." 

"COLLATERAL from Dr. ___ with ___ permission:
Dr. ___ has known ___ for the past year since her 
diagnosis
of MS. ___ has "depression tendency" prior
to her diagnosis however due to her cognitive decline, ___
has had worsening of her depression. She stated that ___ was
very successful working as "supervisor of all nannies" for a
wealthy family and that ___ was fired after ___ told the
family she might have MS. ___ also noted difficulty focusing
on her online grad course which previously came easy to her. Dr.
___ "she worries me" and is concern that patients with
MS can suddenly become very impulsive. Dr. ___ has been trying
to connect the ___ with a psychiatrist for the past ___
months but has been unsuccessful. She recommends that ___ be
hospitalized at this time.
 
Past Medical History:
PCP: Dr. ___ at ___
Neurologist ___ Dr. ___ diagnosis ___ year ago
 
Social History:
___
Family History:
Maternal grandmother with bipolar "heavily medicated"
Mother with "untreated bipolar", alcohol abuse
Materal uncles with schizophrenia, bipolar
Father with depression and alcohol abuse; died ___ years ago from
"septic shock related to heavy alcohol use"
Paternal family and brother with alcohol abuse
Denied any suicide attempts in family
 
Physical Exam:
Height: ___  Weight: 146.8 lbs
General- NAD, dressed in home clothes
HEENT- Sclera anicteric. Oropharynx benign. Mucous membranes
moist.
Neck - Supple. Trachea midline.
Lungs- CTAB
CV- RRR, no murmur, rubs or gallops
Abdomen: +BS, soft, NTND
Extremities- Warm, no edema

 
Pertinent Results:
Chem:
___: Na: 139
___: K: 4.1
___: Cl: 106
___: CO2: 27
___: BUN: 9
___: Creat: 0.7
___: Glucose: 86

TSH:
___: TSH: 2.0

CBC: 
___: WBC: 5.3
___: HGB: 13.1
___: HCT: 39.6
___: MCV: 90
___: Plt Count: 242
___: RDW: 14.0

Serum Tox: negative

Utox:
___: Benzodiazepine: NEG
___: Barbiturate: NEG
___: Opiate: NEG
___: Cocaine: NEG
___: Amphetamine: NEG
___: Methadone: NEG
UA:
___: Urine Glucose (Hem): NEG
___: Urine Protein (Hem): NEG
___: Urine Bilirubin (Hem): NEG
___: Urobilinogen: NEG
___: Urine Ketone (Hem): NEG
___: Urine Blood (Hem): NEG
___: Urine Nitrite (Hem): NEG
___: Urine Leuks (Hem): NEG
UCG: negative

 
Brief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission and 
remained here on that level of observation throughout. She was 
unit-restricted.  There were no acute safety issues during this 
hospitalization.

LEGAL: ___
PSYCHIATRIC:

#Unspecified depressive disorder:
On exam, she was very pleasant, engaged and forthcoming. She 
endorsed multiple neurovegetative symptoms including insomnia, 
anhedonia, poor appetite with 40lb weight loss, fatigue, poor 
concentration and memory. She reports numerous stressors, most 
significantly her diagnosis of MS ___ year ago, and her developing
physical and cognitive deficits from this disease. She focused 
on stressors particularly her relationship with her mother. She 
denied SI since admission to floor. Labs were within normal 
limits and cognitive exam was notable for impaired recall. She 
settled in the unit well and was interactive with peers and in 
groups. Other than difficulties with sleep, ___ remained 
very future oriented and help-seeking. She felt optimistic and 
motivated for a good future.  She tolerated
medications well and did not want to consider an increased dose 
of her home paroxetine dose of 10mg PO daily. She benefitted 
from groups and team found that her acute SI resolution although 
persistent psychosocial stressors would be best addressed in the 
outpatient setting in ___ and/or with psychiatrist/therapist 
follow-up. 
   
#Insomnia
Team started Hydroxyzine 25mg PO QHS:PRN anxiety/insomnia which 
was tolerated well although unclear benefit with long term use 
as anticholinergic and antihistaminic. ___ determined best 
to follow up with outpatient provider for management. 

GENERAL MEDICAL CONDITIONS:

#Multiple sclerosis- primary progressive
___ was continued on Oxybutynin 5 mg PO BID (pt takes 10 mg 
extended-release daily at home which was unavailable at our 
pharmacy) and tolerated well.

#Nutritional Assessment
Inpatient nutrition was consulted for unintentional weight loss 
in this ___ who reported ~ 20 # wgt loss in past ___ months. 
___ said she has had problems with constipation in the past 
from meds but has not had a problem with this recently.She 
attributes MS as presenting multiple barriers to her abilty to 
eat and/or prepare
meals. She said she is not able to shop for food or prepare 
meals due to MS. ___ said it is too stressful for her to perform 
these tasks. Consult suggested she take a nutritional supplement 
and she declined. ___ was subsequently told her she should 
eat a good source of protein with each meal and these foods were 
verbally identified for her, which ___ was agreeable with. 
Goals included weighing ___ every 5 days

PSYCHOSOCIAL:
#) GROUPS/MILIEU/THERAPY:
___ appeared help-seeking & motivated to attend groups & to 
engage in treatment overall while on ___-4. Occupational 
therapy addressed symptom management, insight, structure, 
self-esteem, concentration, leisure, socialization, & positive
coping skill development, in groups & 1:1 treatment sessions (as 
needed), while here on ___-4. Team recommended & 
encouraged ___ to participate in the following treatment 
groups, as appropriate:
--Psycho-educational & Process-Oriented Groups, in order to:
improve ___ insight, self-esteem, positive coping skills, &
symptom management techniques. 
--Structured/Therapeutic Activity Groups, in order to: further
improve ___ self-esteem & positive coping skills, as well 
as
to improve her concentration, leisure skills, socialization
skills, & daily structure.
Frequency/Duration: 6x/week X 1 week.
-___ agreed with the above goals & she was willing to 
participate in the rehabilitation program.

#) COLLATERAL CONTACTS:
- Husband ___, ___

#) FAMILY INVOLVEMENT:
Husband was contacted for family meeting 1pm ___: Team met 
with ___ and husband to discuss hospital course and 
aftercare planning. Husband appeared understanding and 
supportive. Aftercare planning discussed. 

#) INTERVENTIONS:
- Psychopharmacotherapy and therapy in groups/activities as 
above

INFORMED CONSENT:
N/A 

RISK ASSESSMENT:

#) Chronic/Static Risk Factors:
- Chronic medical and mental illness

#) Modifiable Risk Factors:
- Outpatient follow up 
- Social support
- Career/occupation

#) Protective Factors:
- Stable housing, Married with supportive husband, no prior 
suicide attempts, help seeking, and willingness to engage in 
treatment

PROGNOSIS:
Fair - Ms. ___ is a ___ year old woman with history of 
depression, anxiety and primary progressive multiple sclerosis 
who self-presented with worsening depression and SI with a plan 
in setting of progressive medical condition. On exam, she has 
been pleasant, engaged and forthcoming. She endorsed multiple 
neurovegetative symptoms including insomnia, anhedonia, poor 
appetite with 40lb weight loss, fatigue, poor concentration and 
memory on admission likely aggravated by numerous psychosocial 
stressors, including her relationship with her mother but also 
most significantly her diagnosis of MS ___ year ago and her 
developing physical and cognitive deficits from this disease. 
She has denied SI since admission and appears goal-oriented 
towards treatment, with less complaints regarding anxiety and
neurovegetative symptoms and more euthymic presentation on exam. 
Her presentation remains consistent with an unspecified 
depressive disorder (major depressive disorder vs depression 
secondary to her MS) although with protective factors including 
higher cognitive functioning and insight with no acute safety 
concerns. She will strongly benefit from continued collateral 
with family and neurologist as well as PHP and 
psychiatrist/therapist follow up for long-term management in the
outpatient setting.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Paroxetine 10 mg PO DAILY 
2. Oxybutynin 10 mg PO DAILY 

 
Discharge Medications:
1. Oxybutynin 10 mg PO DAILY 
2. Paroxetine 10 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified Depressive Disorder

 
Discharge Condition:
Discharge Condition: Stable 

Mental Status: 
*Appearance: Caucasian female appearing stated age, dressed in
street clothing, appropriate grooming and hygiene
*Behavior: Pleasant, Cooperative with interview. Good eye
contact. no signs of psychomotor agitation/retardation.
*Mood and Affect: 'good', affect is euthymic
*Thought process: linear, goal-directed
*Thought Content: denies SI/HI, AVH. No evidence of internal
 stimuli.
*Judgment and Insight: good/good
*Speech:  normal rate, volume, tone, prosody
*Language:  ___, fluent

Ambulation Status: Ambulates with cane assistance

 
Discharge Instructions:
You were hospitalized at ___ for SI. We have continued your 
medications without adjustments or additions at your request, 
and you are now ready for discharge and continued treatment, 
with outpatient psychiatry/therapy and partial program 
recommendations as listed below.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*

 
Followup Instructions:
___